US04454120
A solution of N-benzyloxycarbonyl-O-benzyl-L-tyrosine pentafluorophenyl ester (2.34 g.), N-(3-phenylpropyl)-D-serinamide hydrochloride (1.00 g.) and diisopropylethylamine (0.71 ml.) in tetrahydrofuran (25 ml.) was stirred at room temperature for one hour. The mixture was triturated with water, and the product was precipitated with hot ethyl acetate and recrystallized from ethyl acetate, affording (N-benzyloxycarbonyl-O-benzyl-L-tyrosyl)-N-(3-phenylpropyl)-D-serinamide (1.35 g., m.r. 175°-177° C.).

reactant | N-benzyloxycarbonyl-O-benzyl-L-tyrosine pentafluorophenyl ester | 2.34 g | FC1=C(C(=C(C(=C1OC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O)F)F)F)F | C30H22F5NO5
reactant | N-(3-phenylpropyl)-D-serinamide hydrochloride | 1.00 g | Cl.C1(=CC=CC=C1)CCCNC([C@H](N)CO)=O
reactant | diisopropylethylamine | 0.71 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | (N-benzyloxycarbonyl-O-benzyl-L-tyrosyl)-N-(3-phenylpropyl)-D-serinamide | 1.35 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N[C@H](CO)C(=O)NCCCC1=CC=CC=C1 | C36H39N3O6
